US05371101
In the same manner as in Reference Example 5, starting from 1.0 g of (1S)-1-[(2R)-(2,4-difluorophenyl)-2-oxiranyl]ethanol and 1.23 g of 1-[4-(2,2,3,3,3-pentafluoropropoxy)phenyl]-2(1H,3H)-imidazolone, 0.43 g of 1-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-3-[4-(2,2,3,3,3-pentafluoropropoxy)phenyl]-2(1H,3H)-imidazolone was obtained as colorless plates.

reactant | (1S)-1-[(2R)-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 1.0 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 1-[4-(2,2,3,3,3-pentafluoropropoxy)phenyl]-2(1H,3H)-imidazolone | 1.23 g | FC(COC1=CC=C(C=C1)N1C(NC=C1)=O)(C(F)(F)F)F | C12H9F5N2O2
product | 1-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-3-[4-(2,2,3,3,3-pentafluoropropoxy)phenyl]-2(1H,3H)-imidazolone | 0.43 g | FC1=C(C=CC(=C1)F)[C@]1([C@@H](C)N2C(N(C=C2)C2=CC=C(C=C2)OCC(C(F)(F)F)(F)F)=O)CO1 | C22H17F7N2O3
